*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/B(-25to85[deg])/1.50e-02[uF]/50[V]
* Murata P/N :GRM155B31H153KA12
* Property : C = 1.50e-02[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GRM155B31H153KA12 Port1 Port2
C01 Port1 N01 1.53e-08
R01 Port1 N01 1.00e+10
L02 N01 N02 1.54e-10
R03 N02 N03 4.29e-02
C04 N03 N04 1.57e-06
R04 N03 N04 2.54e+03
C05 N04 N05 2.29e-06
R05 N04 N05 1.88e+02
C06 N05 N06 2.68e-06
R06 N05 N06 2.72e+01
C07 N06 N07 2.16e-06
R07 N06 N07 6.53e+00
C08 N07 N08 1.33e-06
R08 N07 N08 1.07e+00
C09 N08 N09 9.97e-07
R09 N08 N09 1.40e-01
C10 N09 N10 1.30e-06
R10 N09 N10 1.84e-02
L11 N10 N11 6.37e-11
R11 N10 N11 1.51e-01
C12 N11 N12 2.42e-08
L12 N11 N12 2.15e-11
R12 N11 N12 4.11e-02
C13 N12 Port2 2.74e-12
L13 N12 Port2 1.25e-10
R13 N12 Port2 2.09e+01
.ENDS GRM155B31H153KA12
